US07214673B2
(S)-2-Ethyl-10-{3-[2-(3-fluoro-phenyl)-ethyl]-piperazin-1-yl}-4H-3-thia-1,4,9-triaza-benzo[f]azulene
By using a method similar to the method of Example 501, using a suspension of 2-ethyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo{f}azulene-10-thione (3.4 g, 13.0 mmol) in 35 mL CH2Cl2, add methyl trifluoromethanesulfonate (4.2 g, 26.0 mmol) overnight, LC-MS showed still had 50% of starting material, added another 0.1 mL of methyl trifluoromethanesulfonate, and heated to 35° C. for 1 h. Concentrate the reaction mixture under reduced pressure, give a red-brown solid. Dissolve the solid in 32.5 mL of pyridine to make 0.4 M of solution. Take 6.25 mL of the solution (2.5 mmol), mix with (S)-2-(3-fluoro-phenyl)-piperazine (520 mg, 2.5 mmol) and heat to 100° C. for 3 hours. Cool the reaction to RT, concentrate down to a residue, which purify by flash chromatography on silica gel, gradient 100% CH2C12 to 100% mixed solvent of (CH2Cl2: 2N NH3/MeOH=20:1) over 55 min. give 412 mg of the title compound Mass spectrum (APCI) (m/e): C24H26FN5S, Cacl. Mass: 435.15, Found: 436.2 (M+1); 1H NMR (300 MHz, CDCl3) δ ppm: 7.24–6.85 (m, 7H), 6.66–6.65 (m, 1H), 5.30 (br, 1H), 4.25–4.15 (m, 2H), 3.20–2.68 (m, 10H), 1.90–1.75 (m, 2H), 1.29 (t, 3H, J=7.3 Hz).

reactant | 2-ethyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo{f}azulene-10-thione | 13.0 mmol, 3.4 g | C(C)C1=NC=2C(NC3=C(NC2S1)C=CC=C3)=S | C12H11N3S2
reactant | methyl trifluoromethanesulfonate | 26.0 mmol, 4.2 g | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | methyl trifluoromethanesulfonate | 0.1 mL | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | (S)-2-(3-fluoro-phenyl)-piperazine | 2.5 mmol, 520 mg | FC=1C=C(C=CC1)[C@@H]1NCCNC1 | C10H13FN2
reactant | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 32.5 mL | N1=CC=CC=C1 | C5H5N
product | (S)-2-Ethyl-10-{3-[2-(3-fluoro-phenyl)-ethyl]-piperazin-1-yl}-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 412 mg | C(C)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CC(=CC=C3)F | C24H26FN5S
